US04166115
2-Methoxyimino-2-(3-chloro-4-hydroxyphenyl)acetic acid (a mixture of syn and anti isomers) (7 g.) and diazomethane (1.5 g.) were reacted and the product was purified by column chromatography according to a similar manner to that of Preparation (5-3)(b) to give crystals of methyl 2-methoxyimino-2-(3-chloro-4-hydroxyphenyl)acetate (syn isomer) (3.0 g.).

reactant | 2-Methoxyimino-2-(3-chloro-4-hydroxyphenyl)acetic acid | CON=C(C(=O)O)C1=CC(=C(C=C1)O)Cl | C9H8ClNO4
reactant | diazomethane | 1.5 g | [N+](=[N-])=C | CH2N2
product | methyl 2-methoxyimino-2-(3-chloro-4-hydroxyphenyl)acetate | 3.0 g | CON=C(C(=O)OC)C1=CC(=C(C=C1)O)Cl | C10H10ClNO4
